US09085583B2
Step 4: 5-methyl-4H-pyrrolo[2,3-d]thiazole
To a solution of (4H-pyrrolo[2,3-d]thiazol-5-yl)methanol (3.5 g, 22.7 mmol) in anhydrous dichloromethane (50 mL) was added triethylsilane (5.23 g, 45.4 mmol) dropwise below 0° C., trifluoroacetic acid (5.18 g, 45.4 mmol) was added dropwise followed below 0° C. The resulting reaction system was warm to the ambient temperature and allowed to stir for 2 hours at room temperature. The reaction mixture was poured into saturated sodium bicarbonate, extracted with dichloromethane (50 mL×3), the combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by column chromatograph on silica gel eluted with (petrol ether/acetic ester 15:1→8:1) to give the title compound (2.5 g, 80%) as a yellow solid. LCMS (M+H+) m/z: calc'd. 138.03. found 138.9.

reactant | (4H-pyrrolo[2,3-d]thiazol-5-yl)methanol | 22.7 mmol, 3.5 g | S1C=NC2=C1C=C(N2)CO | C6H6N2OS
reactant | triethylsilane | 45.4 mmol, 5.23 g | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 45.4 mmol, 5.18 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-methyl-4H-pyrrolo[2,3-d]thiazole | 2.5 g, 80% | CC1=CC2=C(N=CS2)N1 | C6H6N2S
